US04762942
1-(2-Hydroxy-5-tetradecylphenyl)ethanone
A 900 mg portion of 4-tetradecylphenol, acetate was heated at 70° C. under argon and 720 mg of aluminum trichloride was added portionwise. After 2 hours the temperature was raised to 120° C. and the mixture was heated at this temperature for 45 minutes. The mixture was then cooled, diluted with chloroform, washed with 50% aqueous hydrochloric acid then water and dried. The solvents were removed and the residue recrystallized from ether-methanol, giving 850 mg of the desired compound, mp 38.5°-39.5° C.

reactant | 4-tetradecylphenol | C(CCCCCCCCCCCCC)C1=CC=C(C=C1)O | C20H34O
reactant | acetate | C(C)(=O)[O-]
reactant | aluminum trichloride | 720 mg | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-Hydroxy-5-tetradecylphenyl)ethanone | 850 mg | OC1=C(C=C(C=C1)CCCCCCCCCCCCCC)C(C)=O | C22H36O2
